US04000146
A mixture of 2-chloro-3,5-dinitropyridine (20.4 g, 0.10 mole) 15 ml absolute ethanol, potassium bicarbonate (11.0 g, 0.11 mole), and 2-aminopyridine (28.2 g, 0.30 mole) was refluxed for 24 hours. The mixture was concentrated to one-half of its volume and diluted with several volumes of water to precipitate solid. After further washing and drying 2-α-pyridylamino)-3,5-dinitropyridine (81% yield) was obtained as a golden, yellow solid. Anal. Calcd. for C10H7N5O4 : C, 46.0; H, 2.7; N, 26.8 Found: C, 46.1; H, 2.9; N, 27.0.

reactant | 2-chloro-3,5-dinitropyridine | 0.10 mole, 15 ml, 20.4 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | potassium bicarbonate | 0.11 mole, 11.0 g | C([O-])(O)=O.[K+]
reactant | 2-aminopyridine | 0.30 mole, 28.2 g | NC1=NC=CC=C1 | C5H6N2
product | 3,5-dinitropyridine | 81% yield | [N+](=O)([O-])C=1C=NC=C(C1)[N+](=O)[O-] | C5H3N3O4
